US05466687
4-[4-(2-Oxazolin-2-yl)benzylidene]piperidine
4-[4-(2-oxazolin-2-yl)benzyl]piperidine from 1-tert.butoxycarbonyl-4-[4-(2-oxazolin-2-yl)benzyl]piperidine and trifluoroacetic acid. Melting point: 110° C.

reactant | 4-[4-(2-oxazolin-2-yl)benzyl]piperidine | O1C(=NCC1)C1=CC=C(CC2CCNCC2)C=C1 | C15H20N2O
reactant | 1-tert.butoxycarbonyl-4-[4-(2-oxazolin-2-yl)benzyl]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=CC=C(C=C1)C=1OCCN1 | C20H28N2O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[4-(2-Oxazolin-2-yl)benzylidene]piperidine | O1C(=NCC1)C1=CC=C(C=C2CCNCC2)C=C1 | C15H18N2O
